US09315542B2
(4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-yl prop-2-yn-1-yl carbonate
(2S)—N—((S)-1-((2S,4S)-2-hydroxy-1-iodo-2,6-dimethyl-3-oxoheptan-4-ylcarbamoyl)-2-phenylethyl)-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)-4-methylpentanamide (1.18 g, 1.39 mmol) was dissolved in dichloromethane. DMAP (1.92 g, 13.9 mmol) was added and the mixture cooled to 0° C. Phosgene solution (20% in toluene, 3.75 mL, 5.52 mmol) was added dropwise and the reaction stirred at 0° C. for 30 minutes. Propargyl alcohol (0.802 ml, 13.9 mmol) was added and the mixture stirred at room temperature for 16 hours. The reaction was diluted with 200 mL dichloromethane, washed with 1 N HCl (50 ml) and brine (50 mL), dried over anhydrous MgSO4 and concentrated under reduced pressure. The residue was purified by prep HPLC to afford 230 mg of white solid. 1H NMR (DMSO-d6): δ 8.37 (d, J=8.5 Hz, 1H), 8.18 (s, 1H), 8.12 (d, J=8.0 Hz, 1H), 8.03 (d, J=8.5 Hz, 1H), 7.88 (d, J=8.5 Hz, 1H), 7.28-7.08 (m, 10H), 5.19 (s, 2H), 4.89-4.83 (m, 1H), 4.57-4.51 (m, 4H), 4.37-4.28 (m, 2H), 3.87-3.79 (m, 4H), 3.65-3.31 (m, 793H), 2.96-2.90 (m, 4H), 2.80-2.76 (m, 1H), 2.50-2.42 (m, 6H), 1.89-75 (m, 2H), 1.58-1.30 (m, 9H). 0.86-0.74 (m, 12H).

reactant | (2S)—N—((S)-1-((2S,4S)-2-hydroxy-1-iodo-2,6-dimethyl-3-oxoheptan-4-ylcarbamoyl)-2-phenylethyl)-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)-4-methylpentanamide | 1.39 mmol, 1.18 g | O[C@](CI)(C([C@H](CC(C)C)NC(=O)[C@H](CC1=CC=CC=C1)NC([C@H](CC(C)C)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)=O)=O)C | C40H58IN5O7
reactant | Phosgene | 5.52 mmol, 3.75 mL | C(=O)(Cl)Cl | CCl2O
reactant | Propargyl alcohol | 13.9 mmol, 0.802 ml | C(C#C)O | C3H4O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 13.9 mmol, 1.92 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (4S,7S,10S,13S,15S)-10-benzyl-16-iodo-7,13-diisobutyl-15-methyl-1-morpholino-2,5,8,11,14-pentaoxo-4-phenethyl-3,6,9,12-tetraazahexadecan-15-yl prop-2-yn-1-yl carbonate | 230 mg | C(O[C@@](C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CN1CCOCC1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O)(CI)C)(OCC#C)=O | C44H60IN5O9
